US04831265
To a solution of 250 mg of 2,3-dimethoxy-5-methyl-1,4-benzoquinone in 1.8 ml of toluene was added little by little 1.4 g of bis(11-acetoxyundecanoyl)peroxide under stirring at a temperature of 85°-90° C. The mixture was heated for two hours. The resultant was cooled and diluted with water, followed by extraction with ethylacetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to chromatography on silica-gel, followed by recrystallization from aqueous ethanol to yield 216 mg of 6-(10-acetoxydecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone, m.p. 38° C. Simultaneously, 84 mg of the starting material, 2,3-dimethoxy-5-methyl-1,4-benzoquinone, was recovered.

reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 250 mg | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
reactant | bis(11-acetoxyundecanoyl)peroxide | 1.4 g | C(C)(=O)OCCCCCCCCCCC(=O)OOC(CCCCCCCCCCOC(C)=O)=O | C26H46O8
solvent | toluene | 1.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 6-(10-acetoxydecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 216 mg | C(C)(=O)OCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C21H32O6
